US06156767
3-(2-{Bis-[4-(7-chloroquinolin-4-yl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisobutylamide
To a solution of 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisobutylamide (89 mg in 3.0 mL dry tetrahydrofuran) at 0° C. was added 50 mg 4-(7-chloroquinolin-4-yl)butyraldehyde and the mixture stirred for 10 minutes. At this time, 67.4 mg sodium triacetoxyborohydride were added and the mixture allowed to warm slowly to room temperature. After 5 hours, the reaction was quenched by the addition of brine and the mixture extracted with methylene chloride. The combined organics were dried over sodium sulfate and the concentrate purified by preparative tlc on silica gel (methylene chloride:methanol, 95:5) to give the title compound (21.8 mg).

reactant | 3-(2-aminoethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisobutylamide | 3.0 mL, 89 mg | C(C(C)C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN)CC(C)C | C27H37N3O
reactant | 4-(7-chloroquinolin-4-yl)butyraldehyde | 50 mg | ClC1=CC=C2C(=CC=NC2=C1)CCCC=O | C13H12ClNO
reactant | sodium triacetoxyborohydride | 67.4 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 3-(2-{Bis-[4-(7-chloroquinolin-4-yl)butyl]amino}ethyl)-2-(3,5-dimethylphenyl)-1H-indole-5-carboxylic acid diisobutylamide | 21.8 mg | C(C(C)C)N(C(=O)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCN(CCCCC1=CC=NC2=CC(=CC=C12)Cl)CCCCC1=CC=NC2=CC(=CC=C12)Cl)CC(C)C | C53H61Cl2N5O
